US05412094
Loracarbef DMF Disolvate
To loracarbef:ethyl paraben (15.0 g, 49.1% potency as loracarbef), predisolved in 150 ml DMF and 15 ml H2O was added concentrated hydrochloric acid (2.53 ml) dropwise. The solution was heated to 45° C. and the pH was raised from 1.84 to 4.0 over 45 minutes using triethylamine. After crystallization began, triethylamine was slowly added until a pH of 6.7 was obtained. The mixture was stirred for 1 hour at 45° C., filtered, washed with DMF and ethanol and dried under vacuum at 40° C. HPLC analysis indicated that no ethyl paraben was present. The actual yield was 10.07 g, 72% as loracarbef activity, the theoretical yield was 7.37 g of loracarbef activity, and the percent yield was 98.4% yield.

reactant | loracarbef | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N | C16H16ClN3O4
reactant | ethyl paraben | 15.0 g | C(C)OC(=O)C1=CC=C(O)C=C1 | C9H10O3
reactant | H2O | 15 ml | O | H2O
reactant | hydrochloric acid | 2.53 ml | Cl | ClH
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Loracarbef DMF | yield was 98.4% yield | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N.CN(C)C=O | InChI=1S/C16H16ClN3O4.C3H7NO/c17-9-6-7-10-12(15(22)20(10)13(9)16(23)24)19-14(21)11(18)8-4-2-1-3-5-8;1-4(2)3-5/h1-5,10-12H,6-7,18H2,(H,19,21)(H,23,24);3H,1-2H3/t10-,11-,12+;/m1./s1
